US07615642B2
Step B: (1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}azetidin-3-yl)acetic acid
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (700 mg, 1.9 mmol), azetidin-3-ylacetic acid hydrochloride (495 mg, 3.3 mmol) and DIPEA (4 mL) in DMF (20 mL), provided the title compound as a crude product (600 mg, 70%), which was used directly in Step A.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 1.9 mmol, 700 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | azetidin-3-ylacetic acid hydrochloride | 3.3 mmol, 495 mg | Cl.N1CC(C1)CC(=O)O
reactant | DIPEA | 4 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}azetidin-3-yl)acetic acid | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2CC(C2)CC(=O)O | C22H31N3O5S
